US09416135B2
To a stirred solution of 1-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-1,6-bis(methylsulfonyl)-1H-indol-2-yl)-2-methylpropan-1-ol (2.3 g, 3.8 mmol) in dry CH2Cl2 (25 mL) was added Dess-Martin periodiane (1.94 g, 4.56 mmol) in one portion. The mixture was allowed to stir at rt for 2 h. The reaction was quenched with a solution of Na2S2O3 (5 g in 30 mL H2O) and sat. NaHCO3 solution (40 mL). The mixture was extracted with EtOAc (3×80 mL). The combined organic solution was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography over silica gel eluting with EtOAc/hexanes (2/8) to provide 1-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-1,6-bis(methylsulfonyl)-1H-indol-2-yl)-2-methylpropan-1-one (2.0 g, 86% yield). LC-MS m/z 612 [M+H]+. 1H NMR (400 MHz, CDCl3): δ 8.69 (s, 1H), 8.03 (s, 1H), 7.70-7.68 (m, 4H), 7.46-7.36 (m, 6H), 7.22 (s, 1H), 5.20 (s, 2H), 3.80 (s, 3H), 3.36 (m, 1H), 2.89 (s, 3H), 1.29 (d, J=6.8 Hz, 6H), 1.13 (s, 9H). 13C NMR (100 MHz, CDCl3): δ 197.83, 141.53, 136.69, 136.05, 135.50, 135.04, 132.81, 131.14, 129.99, 127.88, 123.17, 117.12, 114.21, 62.87, 44.19, 44.03, 39.09, 26.88, 19.30, 18.41.

reactant | 1-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-1,6-bis(methylsulfonyl)-1H-indol-2-yl)-2-methylpropan-1-ol | 3.8 mmol, 2.3 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C2C=C(N(C2=CC1S(=O)(=O)C)S(=O)(=O)C)C(C(C)C)O | C31H39NO6S2Si
reactant | Dess-Martin | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-1,6-bis(methylsulfonyl)-1H-indol-2-yl)-2-methylpropan-1-one | 2.0 g, 86% yield | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C2C=C(N(C2=CC1S(=O)(=O)C)S(=O)(=O)C)C(C(C)C)=O | C31H37NO6S2Si
